US03996374
A solution of 4.36 g. of 5-chloro-2-{3-[(methylsulfonyl)oxy]propyl}-3-phenylisoindole-1-carboxylic acid ethyl ester in 40 ml. of acetone is treated with 10 ml. of bis-(2-methoxyethyl)amine and boiled at reflux for 17 hours. The mixture is then concentrated to dryness under reduced pressure and the residue taken up in ether. After acidification with ethereal hydrochloric acid, the crystallized hydrochloride is removed by filtration under vacuum, dried and recrystallized from methylene chloride/ether, and there is obtained 5-chloro-2-{3-[bis(methoxyethyl)amino]propyl}-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride; melting point 120°-122° C.

reactant | 5-chloro-2-{3-[(methylsulfonyl)oxy]propyl}-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCOS(=O)(=O)C | C21H22ClNO5S
reactant | bis-(2-methoxyethyl)amine | COCCNCCOC | C6H15NO2
solvent | acetone | CC(=O)C | C3H6O
product | 5-chloro-2-{3-[bis(methoxyethyl)amino]propyl}-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCN(CCOC)CCOC | InChI=1S/C26H33ClN2O4.ClH/c1-4-33-26(30)25-22-12-11-21(27)19-23(22)24(20-9-6-5-7-10-20)29(25)14-8-13-28(15-17-31-2)16-18-32-3;/h5-7,9-12,19H,4,8,13-18H2,1-3H3;1H
